US09376420B2
Step 1: 3-(6-bromo-pyridin-2-yl)-acrylic acid
6-Bromo-pyridin-2-carbaldehyde (5.0 g, 26.9 mmol), malonic acid (6.3 g, 60.5 mmol), and piperidine (2.2 mL, 22.4 mmol) were added to pyridine (16.3 mL). The reaction mixture was stirred at 100° C. for 1 hour, concentrated under reduced pressure, and then distilled water was added thereto. The mixture was filtered and then the resulting solid was dried under reduced pressure to give 4.5 g of the titled compound as a brown solid.

reactant | 6-Bromo-pyridin-2-carbaldehyde | 26.9 mmol, 5.0 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | malonic acid | 60.5 mmol, 6.3 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 22.4 mmol, 2.2 mL | N1CCCCC1 | C5H11N
solvent | pyridine | 16.3 mL | N1=CC=CC=C1 | C5H5N
product | 3-(6-bromo-pyridin-2-yl)-acrylic acid | 4.5 g | BrC1=CC=CC(=N1)C=CC(=O)O | C8H6BrNO2
